US07666848B2
c) (4-Methoxy-phenyl)-[3-(3,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-2-yloxy)-thiphen-2-yl]-methanone=Example 8
2.8 g of (3-hydroxythiophen-2-yl)-(4-methoxy-phenyl)-methanone were dissolved in 350 ml of dichloromethane, and 12.64 g of 3,4,5-triacetoxy-6-bromo-tetrahydropyran-2-ylmethyl actate, 15.4 g of potassium carbonate, 3.6 g of benzyltributylamonium chloride and finally 3 ml of water were added. The mixture was vigorously stirred at room temp. for 20 h. After the reaction was complete, the residue after filtration and concentration was filtered through SiO2 with ethyl acetate/heptane'1:2. The solvent was removed and the residue was taken up in about 300 ml of methanol and, after addition of 35 ml of 1 N NaOCH3 solution in methanol, stirred at room temp. for 1 h. This was followed by neutralization with 7% methanolic hydrochloric acid (about 35 ml), addition of about 100 of dichloromethane/methanol/conc. ammonia=30:5:0.1 mobile phase mixture and stirring for 5 min. This was followed by concentration, taking up the residue with the same mobile phase mixture and removing insoluble salt from the solution. Chromatography on silica gel results in the product with the molecular weight of 396.42 (C18H20O8S), MS (ESI): 397 (M+H+), 235 (M+H+-gluc).

reactant | (3-hydroxythiophen-2-yl)-(4-methoxy-phenyl)-methanone | 2.8 g | OC1=C(SC=C1)C(=O)C1=CC=C(C=C1)OC | C12H10O3S
reactant | 3,4,5-triacetoxy-6-bromo-tetrahydropyran-2-ylmethyl actate | 12.64 g | C(C)(=O)OCC1OC(C(C(C1OC(C)=O)OC(C)=O)OC(C)=O)Br | C14H19BrO9
reactant | potassium carbonate | 15.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 3 ml | O | H2O
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
catalyst | benzyltributylamonium chloride | 3.6 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
product | (4-Methoxy-phenyl)-[3-(3,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-2-yloxy)-thiphen-2-yl]-methanone | COC1=CC=C(C=C1)C(=O)C=1SC=CC1OC1OC(C(C(C1O)O)O)CO | C18H20O8S
